US04199583
EXAMPLE 4--Preparation of 4-Amino-6-chloro-2-methoxypyrimidine
4-Amino-2,6-dichloropyrimidine (0.5 g.) was added to 30 ml. of a 1% solution of sodium methoxide in methanol. The resultant solution was heated at the reflux temperature for 2 hrs. The methanol was then removed by evaporaion and water was added to the residual oil. The precipitate that formed was filtered off, washed with water and dried at 100° C. at a pressure of 100 mm for 18 hrs. There was thus obtained 4-amino-6-chloro-2-methoxypyrimidine having a melting point at 124° C.

reactant | 4-Amino-2,6-dichloropyrimidine | 0.5 g | NC1=NC(=NC(=C1)Cl)Cl | C4H3Cl2N3
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 4-Amino-6-chloro-2-methoxypyrimidine | NC1=NC(=NC(=C1)Cl)OC | C5H6ClN3O
